Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain/abdominal pain
 
Major Surgical or Invasive Procedure:
___ - Ultrasound-Guided Biopsy of Liver Mass
 
History of Present Illness:
___ ___ speaking woman with a history of diabetes 
and hypertension who just emigrated from ___ 3 months ago 
presents with 2 weeks of epigastric abdominal pain and 
substernal chest pain.  
Reports that substernal chest pain is sharp and worse with 
palpations and with deep respirations. States that she has the 
pain every day for about two weeks but it is worse today. Denies 
cough, congestion, rhinorrhea, sob.  
Epigastric pain is pressure like, has been present for years due 
to her hx of aulcers but is worse in intensity today. Pain is 
worse with food intake. Denies any fevers, chills, 
nausea/vomiting, diarrhea, bloody stools, black stools, dysuria 
or hematuria. Also reports nausea and poor po intake.  
In the ED, initial vitals were: 98.0 94 190/100 16 97% RA  
- Labs were significant for troponin <0.01 x2, D dimer 1037, AST 
62, lipase 44, WBC 12.8 with 55.4% N, 35%, Hct 50.5 %  
- CTA chest revealed no PE, but a heterogenous hypodense mass in 
LLL worrisome for malignancy  
- The patient was given ASA 324mg, maalox, lidocaine viscious, 
1L bolus, nitroglycerin, and CTX  
- patient admitted for further workup of lung mass  
Vitals prior to transfer were: 97 87 146/78 15 94% Nasal Cannula 
 
Upon arrival to the floor, patient continues to complain of 
substernal chest pain, epigastric pain, and also suprapubic 
pain.  
REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, recent weight loss or gain. Denies 
headache, sinus tenderness, rhinorrhea or congestion. Denies 
cough, shortness of breath. Denies palpitations. No dysuria. 
Denies arthralgias or myalgias.  
 
Past Medical History:
- HTN  
- DM2  
 
Social History:
___
Family History:
no family history of cancer or heart disease
 
Physical Exam:
==================
ON ADMISSION:
==================
Vitals: 98.1, 185/113, 91, 20, 95% RA, FSS 222  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry MM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
CHEST: tender to palpation at substernal area  
Lungs: decreased lung sounds throughout, no wheezes, rales, 
rhonchi, no accessory muscle use  
BACK: no CVA tenderness  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
PELVIC: suprapubic tenderness  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: CNII-XII grossly intact, ___ strength upper/lower 
extremities, grossly normal sensation  
SKIN: no rashes  

==================
ON DISCHARGE:
==================
Vitals: T:98.1 P 80  BP 136/62  RR 18  O2 94% RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen: soft, nontender, no rebound tenderness, non-distended, 
bowel sounds present, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
 
Pertinent Results:
==================
LABS ON ADMISSION:
==================
___ 12:55PM BLOOD WBC-12.8* RBC-5.67* Hgb-17.2* Hct-50.5* 
MCV-89 MCH-30.3 MCHC-34.1 RDW-13.3 RDWSD-43.0 Plt ___
___ 12:55PM BLOOD Neuts-55.4 ___ Monos-7.7 Eos-0.9* 
Baso-0.5 Im ___ AbsNeut-7.09* AbsLymp-4.47* AbsMono-0.98* 
AbsEos-0.11 AbsBaso-0.06
___ 12:55PM BLOOD Glucose-188* UreaN-11 Creat-0.7 Na-136 
K-7.1* Cl-101 HCO3-23 AnGap-19
___ 12:55PM BLOOD ALT-22 AST-62* AlkPhos-73 TotBili-0.3
___ 06:55PM BLOOD cTropnT-<0.01
___ 12:55PM BLOOD cTropnT-<0.01
___ 12:55PM BLOOD proBNP-557*

==================
LABS ON DISCHARGE:
==================

___ 06:43AM BLOOD WBC-9.5 RBC-5.30* Hgb-15.6 Hct-48.2* 
MCV-91 MCH-29.4 MCHC-32.4 RDW-13.7 RDWSD-45.8 Plt ___
___ 06:43AM BLOOD Glucose-327* UreaN-13 Creat-0.8 Na-138 
K-4.2 Cl-101 HCO3-22 AnGap-19

==================
OTHER PERTINENT LABS:
==================
___ 07:57AM BLOOD %HbA1c-11.1* eAG-272*

==================
MICROBIOLOGY:
==================
___ Blood cx x2 - pending at time of discharge

==================
IMAGING:
==================
___ chest x-ray: Patchy and linear bibasilar opacities, 
potentially atelectasis but infection or aspiration are not 
excluded. 

___ chest CT: 
-5.6 x 4.6 x 4.3 cm heterogeneous hypodense mass in the left 
lower lobe 
worrisome for malignancy.  Associated mediastinal adenopathy.  
Consider soft tissue sampling/bronchoscopy for further 
delineation. 
-No pulmonary embolism seen although left lower lobe 
subsegmental branches are suboptimally assessed as they appear 
encased by the aforementioned mass. 
-Extremely tortuous and atherosclerotic aorta without evidence 
of aneurysmal dilatation. 
-Indeterminate 3.1 cm hypodensity in the left lobe of the liver 
is partially imaged and could be further assessed with 
ultrasound or MRI. 

___ liver ultrasound: Hepatic steatosis with 2 large solid 
liver lesions in the left and right lobes.  These are amenable 
to ultrasound-guided biopsy. 

___ CT abd/pelvis: 
- 3.0 cm centrally necrotic lesion in segment IV B highly 
suspicious for a hepatic metastasis. 
- 3.6 cm well-circumscribed mass in segment III which 
demonstrates no 
appreciable central post contrast enhancement but does have a 
thin rim of 
enhancement.  This is thought to represent a centrally necrotic 
metastasis given other findings. 
- Limited evaluation of the lung bases demonstrates a left lower 
lobe mass, described on recent chest CT. 
- 3.5 left adnexal cyst which may be followed on subsequent 
exams. 

___ MR Head:
1. No evidence of metastatic disease. 
2. No hemorrhage, mass effect, or infarction. 
3. Brain parenchymal volume loss and probable sequelae of 
chronic 
microangiopathy.
 
Brief Hospital Course:
___ ___ speaking woman with a history of diabetes 
and hypertension who just emigrated from ___ 3 months 
ago presents with 2 weeks of epigastric abdominal pain and 
substernal chest pain found to have lung mass concerning for 
malignancy.  

# Lung Mass: While undergoing a workup for chest pain, the 
patient underwent a chest CT on ___ which showed a mass in her 
left lower lung concerning for malignancy. Furthermore, there 
was notable narrowing of the left mainstem bronchus. She was 
also noted to have a possible liver mass. An ultrasound of the 
liver on ___ showed two discrete liver masses, concerning for 
metastatic disease. Interventional pulmonolgy was consulted for 
possible soft tissue sampling/bronchoscopy for further 
evaluation. However, it was decided that the patient should 
undergo a biopsy of the liver mass instead, as the procedure was 
less invasive and it would still be high yield to diagnose a 
lung carcinoma via markers. The patient underwent a biopsy of 
the liver mass on ___. She tolerated the procedure well. 
While hospitalized, the patient also underwent an 
abdominal/pelvis CT and brain MRI to assess for any further 
metastases. No additional concerning masses were seen, though it 
was noted that the patient has a left ovarian cyst. Throughout 
the hospitalization, the patient did not convey that she had a 
clear understanding of a possible cancer diagnosis, despite 
several attempts with a ___ interpreter and her patient 
advocate. At the time of discharge, the results from the liver 
biopsy were still pending.  

# Chest Pain: The patient initially presented with a complaint 
of chest pain. Due to her PMH of diabetes and being a former 
smoker, she underwent a workup for ACS. Her EKG and negative 
troponins were reassuring. There was no evidence of PE on her 
CTA. The pain was reproducible with palpation and deep 
respirations. The patient was treated for likely costochondritis 
with tylenol. Her chest pain improved during her 
hospitalization, and she was experiencing no chest pain at the 
time of discharge.

# epigastric pain: The patient reported that she has had 
intermittent epigastric pain for many years, and had a history 
of ulcers. It was reported to be worse with food intake. The 
patient was treated with maalox and ranitidine 150mg BID. Her 
pain was resolved at the time of discharge.   

# UTI: On admission, the patient endorsed suprapubic pain, 
increased urinary frequency, and pain with urination. A u/a was 
suggestive of a UTI, though no culture was sent. The patient 
completed a 3 day course of ceftriaxone. At the time of 
discharge, she was no longer experiencing symptoms.

# elevated Hct: The patient was found to have an elevated 
hematocrit of 50.5. This improved somewhat after being given IV 
fluids, but remained in the high ___ throughout the 
hospitalization. The etiology was unclear. Some emphazema was 
noted on her chest CT, but her oxygen saturation remained in the 
high ___. On discharge her Hct was 48.2.

# DM: During the hospitalization, the patient had consistently 
high blood glucose levels. She was started on an insulin sliding 
scale. Per the patient's family, the patient was taking 
glimepiride while living in ___, but had run out of the 
medication after moving to ___. On check her HbA1c 
was 11.1%. We will defer starting new medications to the 
outpatient setting.

# HTN: It does not appear that the patient had been taking any 
home medication for her hypertension. On admission she was 
started on labetolol, and later switched to lisinopril 5mg, 
which she was discharged on.
 
# Incidental findings on CTA: Will defer ultrasound of thyroid 
to outpatient setting. 

=====================
Transitional Issues:
=====================
- Please follow up results from biopsy of liver mass and refer 
to appropriate Oncology provider if returns positive for 
malignancy.
- Consider thyroid ultrasound for further assessment of multiple 
nodules of right lobe of the thyroid.
- Consider outpatient cardiac stress test given chest pain and 
multiple risk factors for coronary artery disease.
- Please ensure follow-up with Dr. ___ in Interventional 
___ for outpatient bronchoscopy to evaluate narrowing of 
left main stem bronchus.
- Please note that patient was found to have a HgA1C of 11.1, 
and was taking glimepiride in ___ (dose unknown), but is 
not currently on home medications for diabetes. Consider medical 
management of diabetes.
- The patient was started on lisinopril 5mg for hypertension. 
This may need to be adjusted in the outpatient setting.
- Please follow-up pending blood cultures from ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. glimepiride Dose is Unknown  oral DAILY 
 
Discharge Medications:
1. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg take 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
2. Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg take 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
- Costochondritis
- Lung Mass
- Liver Mass s/p Biopsy
- Urinary Tract Infection

Secondary Diagnoses:
- Hypertension
- GERD
- Type II Diabetes
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure being a member of your care team at ___ 
___. You were admitted to the 
hospital with chest and stomach pain. We did a CT scan to take a 
picture of your chest, and found that you have a mass in your 
left lung. We also saw two more masses in your liver. We did a 
biopsy of the liver, where we took a piece of the mass to do 
more testing. We have scheduled you an appointment with a new 
primary care physician, who will give you the results of the 
test and help to make a plan based on this information.

We also treated you with antibiotics for a UTI. Your pain 
improved during your stay with us. You were also having some 
acid reflux, so we gave you a medication for that as well.

It was a pleasure meeting you and your family, and we wish you 
all the best.

Thank you,
Your ___ Care Team
 
Followup Instructions:
___